US04221814
The procedure of Example 15 was repeated for reacting butyl 2-(4-carboxybenzamido)-4-aminobenzoate with propionic anhydride, and the reaction product was treated as in Example 15 to provide a 65% yield of butyl 2-(4-carboxybenzamido)-4-propionamidobenzoate having a melting point in the range of from 243° to 245° C.

reactant | butyl 2-(4-carboxybenzamido)-4-aminobenzoate | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)OCCCC)C=CC(=C2)N)C=C1 | C19H20N2O5
reactant | propionic anhydride | C(CC)(=O)OC(CC)=O | C6H10O3
product | butyl 2-(4-carboxybenzamido)-4-propionamidobenzoate | 65% yield | C(=O)(O)C1=CC=C(C(=O)NC2=C(C(=O)OCCCC)C=CC(=C2)NC(CC)=O)C=C1 | C22H24N2O6
